US09062044B2
(6-Methyl-2-(1H-1,2,3-triazol-1-yl)pyridin-3-yl)((1S,6R)-3-(4,5,6-trimethylpyrimidin-2-yl)-3,8-diazabicyclo[4.2.0]octan-8-yl)methanone
To a microwave safe vial was added (1S,6R)-3,8-diazabicyclo[4.2.0]octan-8-yl(6-methyl-2-(1H-1,2,3-triazol-1-yl)pyridin-3-yl)methanone (80 mg, 0.27 mmol), 2-chloro-4,5,6-trimethylpyrimidine (84 mg, 0.54 mmol), ACN (3 mL) and DIPEA (0.093 mL, 0.54 mmol). The resulting mixture was heated to 180° C. in a microwave reactor. After 2 hours the mixture was cooled to ambient temperature and concentrated under reduced pressure. The crude residue was purified by reverse-phase HPLC (acidic) to yield the title compound (60.3 mg, 42%) as the TFA salt. MS (ESI) mass calcd. for C22H26N8O, 418.2; m/z found, 419.1 [M+H]+. 1H NMR (500 MHz, CDCl3): 8.44-8.32 (m, 1H), 7.82-7.72 (m, 2H), 7.22-7.16 (m, 1H), 4.52-4.46 (m, 1H), 4.30 (dd, J=10.0, 9.0 Hz, 1H), 4.04 (tt, J=9.6, 4.8 Hz, 1H), 3.99-3.92 (m, 1H), 3.89-3.57 (m, 2H), 3.13-2.83 (m, 2H), 2.65-2.57 (m, 3H), 2.39-2.31 (m, 6H), 2.15-2.02 (m, 4H), 1.99-1.81 (m, 1H).

reactant | (1S,6R)-3,8-diazabicyclo[4.2.0]octan-8-yl(6-methyl-2-(1H-1,2,3-triazol-1-yl)pyridin-3-yl)methanone | 0.27 mmol, 80 mg | [C@H]12CNCC[C@@H]2CN1C(=O)C=1C(=NC(=CC1)C)N1N=NC=C1 | C15H18N6O
reactant | 2-chloro-4,5,6-trimethylpyrimidine | 0.54 mmol, 84 mg | ClC1=NC(=C(C(=N1)C)C)C | C7H9ClN2
reactant | DIPEA | 0.54 mmol, 0.093 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | ACN | 3 mL | C(C)#N | C2H3N
product | (6-Methyl-2-(1H-1,2,3-triazol-1-yl)pyridin-3-yl)((1S,6R)-3-(4,5,6-trimethylpyrimidin-2-yl)-3,8-diazabicyclo[4.2.0]octan-8-yl)methanone | 60.3 mg, 42% | CC1=CC=C(C(=N1)N1N=NC=C1)C(=O)N1C[C@H]2CCN(C[C@@H]12)C1=NC(=C(C(=N1)C)C)C | C22H26N8O
